US04568432
Gaertner, U.S. Pat. No. 3,927,080, describes the production of glyphosate by acid hydrolysis of N-t-butyl-N-phosphonomethylglycine or its esters. Tertiary butyl amine is reacted with a bromoacetate ester to produce an ester of N-t-butylglycine which is in turn reacted with formaldehyde and phosphorous acid to produce the N-t-butyl-N-phosphonomethylglycine precursor.

reactant | glyphosate | C(C(=O)O)NCP(=O)(O)O | C3H8NO5P
reactant | N-t-butyl-N-phosphonomethylglycine | C(C)(C)(C)N(CC(=O)O)CP(=O)(O)O | C7H16NO5P
reactant | Tertiary butyl amine | C(C)(C)(C)N | C4H11N
product | N-t-butylglycine | C(C)(C)(C)NCC(=O)O | C6H13NO2
